US08420655B2
5-{1-tert-Butyl-2-[2-(1-methyl-1H-[1,2,4]triazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a sealed vial is added 5-bromo-1-tert-butyl-2-[2-(1-methyl-1H-[1,2,4]triazol-3-yl)-phenyl]-1H-benzimidazole (32 mg, 0.078 mmol) in DMF (2 mL), followed by the addition of 2-aminopyrimidine-5-boronic acid pinacol ester (21 mg, 0.095 mmol), tetrakis(triphenylphosphine)palladium(0) (9 mg, 0.008 mmol) and 2M aq. Na2CO3 (0.2 ml, 0.4 mmol). The reaction mixture is heated under Argon at 110° C. for 2 hours. The residue is diluted with EtOAc, washed with brine, dried under anhydrous Na2SO4, filtered and concentrated. The residue is purified by silica gel flash chromatography with 0-3% 7M NH3 in MeOH/CH2Cl2 as the eluent. The product fractions are collected and concentrated to afford the title compound (27 mg, 82%) as an off-white solid. LCMS (ESMS): m/z 425.66 (M++1)

reactant | 5-bromo-1-tert-butyl-2-[2-(1-methyl-1H-[1,2,4]triazol-3-yl)-phenyl]-1H-benzimidazole | 0.078 mmol, 32 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NN(C=N2)C)C(C)(C)C)C=C1 | C20H20BrN5
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.095 mmol, 21 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | Na2CO3 | 0.4 mmol, 2M, 0.2 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.008 mmol, 9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{1-tert-Butyl-2-[2-(1-methyl-1H-[1,2,4]triazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 27 mg, 82% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C2=NN(C=N2)C | C24H24N8
